US08084470B2
456 mg (1.2 mmol) of HATU and 680 μl (4.0 mmol) of DIPEA were added at 0° C. to a solution of 337 mg (1.0 mmol) of 5-methyl-2-(2-(phenylsulfonyl)ethylthio)nicotinic acid in DMF (3 ml). After stirring for a further 15 min at 0° C., 113 mg (1.0 mmol) of thiophen-2-ylmethylamine were added and stirring was carried out for 16 hours at RT. The mixture was then diluted with EA and washed in succession with sat. aq. citric acid solution, saturated aqueous Na2CO3 solution and brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. CC (hexane/EA 7:3) of the residue yielded 418 mg (0.97 mmol, 97%) of 2-[2-(benzenesulfonyl)ethylthio]-5-methyl-N-(2-thienylmethyl)-nicotinamide. MS: m/z 433.1 [M+H]+

reactant | HATU | 1.2 mmol, 456 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.0 mmol, 680 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-2-(2-(phenylsulfonyl)ethylthio)nicotinic acid | 1.0 mmol, 337 mg | CC=1C=NC(=C(C(=O)O)C1)SCCS(=O)(=O)C1=CC=CC=C1 | C15H15NO4S2
reactant | thiophen-2-ylmethylamine | 1.0 mmol, 113 mg | S1C(=CC=C1)CN | C5H7NS
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | hexane EA | CCCCCC.CC(OCC)=O
product | 2-[2-(benzenesulfonyl)ethylthio]-5-methyl-N-(2-thienylmethyl)-nicotinamide | 0.97 mmol, 418 mg, 97% | C1(=CC=CC=C1)S(=O)(=O)CCSC1=C(C(=O)NCC=2SC=CC2)C=C(C=N1)C | C20H20N2O3S3
